US06248739B1
N-(4-Chlorobenzyl)-8-(4-hydroxy-1-butynyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-8-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide (0.22 g) from Preparation No. 48, copper iodide (0.029 g), bis(triphenylphosphine)palladium(II) chloride (0.013 g), and 3-butyn-1-ol (0.040 mL) in diethylamine (15 mL) is stirred at room temperature for 18 h. Hexanes are added to the reaction mixture and the resulting solid is filtered and dried. The solid is dissolved in CH2Cl2/MeOH and adsorbed onto silica. Purification by chromatography (eluent CH2Cl2 (1 L), 1.5% MeOH:CH2Cl2 (1 L), 2% MeOH:CH2Cl2 (2 L), 3% MeOH:CH2Cl2 (1 L)) affords the title compound as a light yellow solid (0.16 g).

reactant | N-(4-chlorobenzyl)-8-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.22 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=CC=C3C2=O)I)C)C=C1 | C18H14ClIN2O2
reactant | 3-butyn-1-ol | 0.040 mL | C(CC#C)O | C4H6O
solvent | diethylamine | 15 mL | C(C)NCC | C4H11N
catalyst | copper iodide | 0.029 g | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.013 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-Chlorobenzyl)-8-(4-hydroxy-1-butynyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.16 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=CC=C3C2=O)C#CCCO)C)C=C1 | C22H19ClN2O3
